US04459150
5-Amino-4-cyano-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazole (6.5 g) in acetic anhydride (30 ml) was heated at reflux for 3.5 hours. The reaction mixture was then evaporated to dryness and the solid residue was dissolved in ethanol (50 ml). Saturated aqueous sodium bicarbonate solution was then added to give a pH of 7-8 and the solution was then evaporated to dryness. The solid residue was triturated with hexane (20 ml) to give an off-white powder which was crystallized from toluene (50 ml) to give 5-acetamido-4-cyano-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazole (1.4 g), m.p. 153°-154° C., in the form of colourless crystals.

reactant | 5-Amino-4-cyano-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazole | 6.5 g | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)C#N | C11H3F7N4
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetamido-4-cyano-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazole | 1.4 g | C(C)(=O)NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)C#N | C13H5F7N4O
